US05889050
(S,S)-N,N'-di(2-methylpropionyl)-3,3'-dithiobis(2-aminopropionic acid)
N-isobutyryl-D-cysteine (1 g, 5.2 mmol) was dissolved in 10 ml of methanol. Hydrogen peroxide (30%, 0.3 ml, 2.6 mmol) was added and the reaction mixture was stirred at room temperature for 6 hours. After evaporation of the solvent under reduced pressure, a white crystallised oil was obtained. Recrystallisation from ethyl acetate furnished the title compound as a white solid which was dried in vacuo.

reactant | N-isobutyryl-D-cysteine | 5.2 mmol, 1 g | C(C(C)C)(=O)N[C@H](CS)C(=O)O | C7H13NO3S
reactant | Hydrogen peroxide | 2.6 mmol, 0.3 ml | OO | H2O2
solvent | methanol | 10 ml | CO | CH4O
product | (S,S)-N,N'-di(2-methylpropionyl)-3,3'-dithiobis(2-aminopropionic acid) | CC(C(=O)N[C@@H](C(=O)O)CSSC[C@H](C(=O)O)NC(C(C)C)=O)C | C14H24N2O6S2
